US05807862
A solution of 1-(8-nonenyl)-3,7-dimethylxanthine (810 mg, 2.7 mmol), prepared above, 4-methylmorpholine-N-oxide (340 mg, 2.9 mmol) and 3 drops of 2.5% osmium tetroxide in t-butanol, acetone (20 ml) and water (20 ml) was stirred for 24 hours, followed by addition of saturated aqueous sodium dithionite solution (5 ml). After stirring the resulting mixture for 15 minutes, the reaction mixture was extracted with four 50 ml aliquots of 25% ethanol-dichloromethane. The combined organic layers were dried over sodium sulfate, and the solvent evaporated under vacuum. A resulting solid residue was recrystallized in ethanol-chloroform, producing 490 mg of 1-(8,9-dihydroxynonyl)-3,7-dimethylxanthine (54% yield).

reactant | 1-(8-nonenyl)-3,7-dimethylxanthine | 2.7 mmol, 810 mg | C(CCCCCCC=C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C16H24N4O2
reactant | 4-methylmorpholine-N-oxide | 2.9 mmol, 340 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium dithionite | 5 ml | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | t-butanol | C(C)(C)(C)O | C4H10O
catalyst | osmium tetroxide | 3 drops | [Os](=O)(=O)(=O)=O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
product | 1-(8,9-dihydroxynonyl)-3,7-dimethylxanthine | 490 mg, 54% yield | OC(CCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C16H26N4O4
